US08053458B2
2-(4-Fluoro-phenyl)-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol
Prepare the title compound from 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione and 4-fluorophenyl hydrazine hydrochloride according to the procedure of Example 28.

reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
reactant | 4-fluorophenyl hydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
product | 2-(4-Fluoro-phenyl)-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol | FC1=CC=C(C=C1)N1N=C(C=C1C1=C(N(N=C1C)C1=CC=CC=C1)O)C | C20H17FN4O
